US07361677B2
Benzoic acid 5-bromomethyl-2-chloro-phenyl ester (CAB02138)
A mixture of benzoic acid 2-chloro-5-methyl-phenyl ester (CAB02124, 2.47 g, 10.0 mmol), N-bromo-succinimide (1.96 g, 11.0 mmol) and dibenzoyl peroxide (10 mg) in carbon tetrachloride (25 mL) was heated to reflux for 1 hour (TLC-control). After cooling to room temperature water (50 mL) and diethyl ether (100 mL) were added. The organic layer was separated, washed with brine (20 mL), dried over sodium sulphate and concentrated under reduced pressure. The residue was purified by column chromatography (EtOAc:hexane, 1:40, Rf: 0.21). Yield: 2.012 g (62%) colourless oil, which solidified after a few hours (contains ca. 10% benzoic acid 5-dibromomethyl-2-chloro-phenyl ester).

reactant | benzoic acid 2-chloro-5-methyl-phenyl ester | 10.0 mmol, 2.47 g | ClC1=C(C=C(C=C1)C)OC(C1=CC=CC=C1)=O | C14H11ClO2
reactant | N-bromo-succinimide | 11.0 mmol, 1.96 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | 10 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | water | 50 mL | O | H2O
solvent | carbon tetrachloride | 25 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | Benzoic acid 5-bromomethyl-2-chloro-phenyl ester | BrCC=1C=CC(=C(C1)OC(C1=CC=CC=C1)=O)Cl | C14H10BrClO2
